US09284315B2
(7) Preparation of tert-butyl 4-((6-chloro-3-formyl-1,5-naphthyridin-4-yl)amino)piperidine-1-carboxylate
tert-butyl 4-((6-chloro-3-(hydroxymethyl)-1,5-naphthyridin-4-yl)amino)piperidine-1-carboxylate (0.39 g, 1 mmol) was dissolved in dichloromethane (10 mL), and to the solution added manganese dioxide (2.14 g, 32 mmol). The reaction mixture was stirred at room temperature for 3 h, filtered and the solid was washed with 30 mL of dichloromethane. The resulting wash liquid and the filtrate were combined and concentrated, and the resulting solid was recrystallized from methanol to give 0.311 g of a white solid.

reactant | tert-butyl 4-((6-chloro-3-(hydroxymethyl)-1,5-naphthyridin-4-yl)amino)piperidine-1-carboxylate | 1 mmol, 0.39 g | ClC=1N=C2C(=C(C=NC2=CC1)CO)NC1CCN(CC1)C(=O)OC(C)(C)C | C19H25ClN4O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 32 mmol, 2.14 g | [O-2].[O-2].[Mn+4]
product | tert-butyl 4-((6-chloro-3-formyl-1,5-naphthyridin-4-yl)amino)piperidine-1-carboxylate | 0.311 g | ClC=1N=C2C(=C(C=NC2=CC1)C=O)NC1CCN(CC1)C(=O)OC(C)(C)C | C19H23ClN4O3
